US09216994B2
Benzo[1,2-b;4,5-b′]dithiophene-4,4,8,8-tetracarboxylic acid tetraethyl ester (95 g) was suspended in dioxane (2850 g) and KOH (356 g) under inert atmosphere and heated to 50° C. Hydrogenperoxide (111 g; w=35%) was added in portions over 3.5 hours and the suspension heated at 50° C. for 20 hours. The reaction mixture was acidified with 2M HCl (3500 g) and the yellow precipitate filtered off, washed with water and dried in vacuum to yield benzo[1,2-b;4,5-b′]dithiophene-4,8-dicarboxylic acid (50.6 g) in 92% yield.

reactant | Benzo[1,2-b;4,5-b′]dithiophene-4,4,8,8-tetracarboxylic acid tetraethyl ester | 95 g | C(C)OC(=O)C1(C2=C(SC=C2)C(C2=C1SC=C2)(C(=O)OCC)C(=O)OCC)C(=O)OCC | C22H24O8S2
reactant | KOH | 356 g | [OH-].[K+]
reactant | Hydrogenperoxide | 111 g | OO | H2O2
reactant | HCl | 2M, 3500 g | Cl | ClH
solvent | dioxane | 2850 g | O1CCOCC1 | C4H8O2
product | benzo[1,2-b;4,5-b′]dithiophene-4,8-dicarboxylic acid | 50.6 g, 92% yield | S1C2=C(C=C1)C(=C1SC=CC1=C2C(=O)O)C(=O)O | C12H6O4S2
